US05629290
A. 2,2-Diphenyl-propanol
To a cold (0° C.) mixture of 4.3 g (114 mmol) of lithium aluminum hydride in 100 ml of tetrahydrofuran, was added 10.74 g (47 mmol) of 2,2-diphenylpropanoic acid in portions. The resulting reaction mixture was allowed to warm to room temperature. When the reaction was substantially complete, as indicated by thin layer chromatography (TLC), the reaction mixture was diluted with approximately 10 ml of water, 8 ml of 1N sodium hydroxide and diethyl ether and stirred for ninety minutes at 0° C. The reaction mixture was then poured over celite, and washed sequentially with diethyl ether and eluted using a gradient eluent of 5-20% ethyl acetate in hexane. The fractions containing the desired compound were combined and concentrated in vacuo to provide 9.38 g of material.

reactant | lithium aluminum hydride | 114 mmol, 4.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,2-diphenylpropanoic acid | 47 mmol, 10.74 g | C1(=CC=CC=C1)C(C(=O)O)(C)C1=CC=CC=C1 | C15H14O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | approximately 10 ml | O | H2O
solvent | sodium hydroxide | 1N, 8 ml | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,2-Diphenyl-propanol | 9.38 g, Yield: 93% | C1(=CC=CC=C1)C(CO)(C)C1=CC=CC=C1 | C15H16O
